US06429214B1
[7-(3-tert-Butoxycarbonylamino-propoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]-acetic acid methyl ester
The title compound is prepared according to the procedure of Example 75 except that (3-bromopropyl)-carbamic acid tert-butyl ester is used in place of (2-bromoethyl)-carbamic acid tert-butyl ester and that (7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester is used in place of (7-hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester.

reactant | (3-bromopropyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCBr)=O | C8H16BrNO2
reactant | (7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester | COC(CC=1C(NC2=CC(=CC=C2C1)O)=O)=O | C12H11NO4
product | [7-(3-tert-Butoxycarbonylamino-propoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]-acetic acid methyl ester | COC(CC=1C(NC2=CC(=CC=C2C1)OCCCNC(=O)OC(C)(C)C)=O)=O | C20H26N2O6
